US04705840
A solution of N-chloroethyl morpholine in toluene was prepared in the following manner. 930.4 grams of N-chloroethyl morpholine hydrochloride (5 moles) available commercially from Aldrich Chemical Co. was dissolved in 500 milliliters water. A solution of 300.0 grams of sodium hydroxide in 300 milliliters water was slowly added to the hydrochloride solution keeping the temperature below 35° C. during addition. After all the hydroxide solution had been added, the reaction was allowed to stir at room temperature for five minutes and then transferred to a separatory funnel. The upper layer was separated and the bottom layer was washed with 500 milliliters toluene. The combined organic layers were dried with anhydrous potassium carbonate, filtered and added in a slow stream to the refluxing alkoxide solution prepared above. After addition the reaction was refluxed overnight.

reactant | N-chloroethyl morpholine hydrochloride | 5 moles, 930.4 grams | Cl.ClCCN1CCOCC1
reactant | sodium hydroxide | 300.0 grams | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | hydroxide | [OH-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 milliliters | O | H2O
solvent | water | 300 milliliters | O | H2O
product | N-chloroethyl morpholine | ClCCN1CCOCC1 | C6H12ClNO
